### PR TITLE
refactor: Update TimeM to match the version in the whitepaper

### PR DESCRIPTION
**Pull request by eric-wieser**
Most notably this removes the global `[simp]` attribute from `Bind.bind` and `Pure.pure`, which breaks monadic reasoning about all other monads.

The changes here were discussed during review of the whitepaper.

### CODE REVIEW

File: Cslib/Algorithms/Lean/TimeM.lean [hunk 1]
```diff
@@ -48,64 +49,61 @@ structure TimeM (α : Type*) where
...
-@[simp] theorem time_of_bind {α β} (m : TimeM α) (f : α → TimeM β) :
- (TimeM.bind m f).time = m.time + (f m.ret).time := rfl
-
-@[simp] theorem time_of_tick {α} (a : α) (c : ℕ) : (tick a c).time = c := rfl
-
-@[simp] theorem ret_bind {α β} (m : TimeM α) (f : α → TimeM β) :
-  (TimeM.bind m f).ret = (f m.ret).ret := rfl
-
--- this allow us to simplify the chain of monadic compositions
-attribute [simp] Bind.bind Pure.pure TimeM.pure TimeM.bind
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/TimeM.lean:108]: This line was a very bad idea.

File: Cslib/Algorithms/Lean/TimeM.lean [hunk 2]
```diff
@@ -48,64 +49,61 @@ structure TimeM (α : Type*) where
...
+@[simp] theorem ret_seq {α β} (f : TimeM (α → β)) (x : TimeM α) : (f <*> x).ret = f.ret x.ret := rfl
+
+@[simp, grind =] theorem time_bind {α β} (m : TimeM α) (f : α → TimeM β) :
+    (m >>= f).time = m.time + (f m.ret).time := rfl
+@[simp, grind =] theorem time_pure {α} (a : α) : (pure a : TimeM α).time = 0 := rfl
+@[simp, grind =] theorem time_map {α β} (f : α → β) (x : TimeM α) : (f <$> x).time = x.time := rfl
+@[simp] theorem time_seqRight {α} (x y : TimeM α) : (x *> y).time = x.time + y.time := rfl
+@[simp] theorem time_seqLeft {α} (x y : TimeM α) : (x <* y).time = x.time + y.time := rfl
+@[simp] theorem time_seq {α β} (f : TimeM (α → β)) (x : TimeM α) :
+    (f <*> x).time = f.time + x.time := rfl
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/TimeM.lean:84]: Moving these rfl lemmas above the `LawfulMonad` structure makes the instance below much easier to prove.

File: Cslib/Algorithms/Lean/MergeSort/MergeSort.lean [hunk 3]
```diff
@@ -75,8 +75,7 @@ theorem mem_either_merge (xs ys : List α) (z : α) (hz : z ∈ ⟪merge xs ys
   · exact mem_reverseAux.mp hz
   · left
     exact hz
-  · simp_all only [Bind.bind, Pure.pure]
-    grind
+  · grind
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/MergeSort/MergeSort.lean:78]: Generally it's a code smell if your proofs have to unfold things every time; the unfolding should happen only while setting up the API for `TimeM`, not while using it.

File: Cslib/Algorithms/Lean/TimeM.lean [hunk 4]
```diff
@@ -48,64 +49,61 @@ structure TimeM (α : Type*) where
...
+  pure := TimeM.pure
+  bind := TimeM.bind
+
+@[simp, grind =] theorem ret_pure {α} (a : α) : (pure a : TimeM α).ret = a := rfl
+@[simp, grind =] theorem ret_bind {α β} (m : TimeM α) (f : α → TimeM β) :
+    (m >>= f).ret = (f m.ret).ret := rfl
+@[simp, grind =] theorem ret_map {α β} (f : α → β) (x : TimeM α) : (f <$> x).ret = f x.ret := rfl
+@[simp] theorem ret_seqRight {α} (x y : TimeM α) : (x *> y).ret = y.ret := rfl
+@[simp] theorem ret_seqLeft {α} (x y : TimeM α) : (x <* y).ret = x.ret := rfl
+@[simp] theorem ret_seq {α β} (f : TimeM (α → β)) (x : TimeM α) : (f <*> x).ret = f.ret x.ret := rfl
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/TimeM.lean:75]: These lemmas are new; the paper says only
```lean
-- additional simp lemmas for <* and *> and <*>
```

**Comment by chenson2018** [comment]
Hmm, not sure why here and for #322 it's not placing this on the merge queue. It's usually not the case, but maybe @fmontesi has to approve for some reason?

**Comment by eric-wieser** [comment]
Or maybe this is a github glitch, and re-marking for merge will wake it up.
